US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-1-naphthalenesulfonamide hydrochloride (Scheme 3)
The compound was synthesized from of N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide and 1-naphthalenesulfonylchloride (61 mg, 0.27 mmol) to give 56 mg as purple solid. M+1 537.2 Calcd 537.15. 1HNMR δ 8.67-8.64 (m, 1H), 8.10 (d, 1H), 8.02-7.98 (m, 1H), 7.89 (dd, 1H), 7.77-7.38 (m, 8H), 6.46 (d, 1H), 6.26 (d, 1H), 6.14 (dd, 1H), 3.54 (app t, 2H), 3.36-3.31 (m, 2H), 3.17 (app t, 2H), 2.05-1.96 (m, 2H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C22H30N4O4S
reactant | 1-naphthalenesulfonylchloride | 0.27 mmol, 61 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-1-naphthalenesulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=CC=CC2=CC=CC=C12)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C27H28N4O4S2.ClH/c32-36(33,23-10-2-1-3-11-23)30-26-20-22(31-18-7-16-28-17-19-31)14-15-25(26)29-37(34,35)27-13-6-9-21-8-4-5-12-24(21)27;/h1-6,8-15,20,28-30H,7,16-19H2;1H
